US06794389B2
cis-N-Amidino-2-[2-(4-chlorobenzoylamino)-6-methoxyquinazolin-4-yl]aminocyclohexylamine Dihydrochloride
A solution of 120 mg of cis-N-[N,N′-bis(tert-butoxycarbonyl)]amidino-2-[2-(4-chlorobenzoylamino)-6-methoxyquinazolin-4-yl]aminocyclohexylamine in 5 mL of methanol and 5 mL of chloroform was combined with 3 mL of a 4N solution of hydrogen chloride in ethyl acetate, and reacted at 50° C. for 72 hours. After concentrating, treatment was performed with methanol-ethyl ether to obtain 22 mg of the desirable compound as pale yellow powder.

reactant | cis-N-[N,N′-bis(tert-butoxycarbonyl)]amidino-2-[2-(4-chlorobenzoylamino)-6-methoxyquinazolin-4-yl]aminocyclohexylamine | 120 mg | C(C)(C)(C)OC(=O)NC(=NC(=O)OC(C)(C)C)N[C@H]1[C@H](CCCC1)NC1=NC(=NC2=CC=C(C=C12)OC)NC(C1=CC=C(C=C1)Cl)=O | C33H42ClN7O6
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | cis-N-Amidino-2-[2-(4-chlorobenzoylamino)-6-methoxyquinazolin-4-yl]aminocyclohexylamine Dihydrochloride | 22 mg | Cl.Cl.C(N)(=N)N[C@H]1[C@H](CCCC1)NC1=NC(=NC2=CC=C(C=C12)OC)NC(C1=CC=C(C=C1)Cl)=O | InChI=1S/C23H26ClN7O2.2ClH/c1-33-15-10-11-17-16(12-15)20(27-18-4-2-3-5-19(18)28-22(25)26)30-23(29-17)31-21(32)13-6-8-14(24)9-7-13;;/h6-12,18-19H,2-5H2,1H3,(H4,25,26,28)(H2,27,29,30,31,32);2*1H/t18-,19+;;/m0../s1
